US08071565B2
Intermediate BB Pyridin-3-yl-carbamic acid phenyl ester
Phenyl chloroformate (0.733 mL, 5.84 mmol) is suspended in pyridine/DCM (3 mL, 2:1). The solution is stirred at 0° C., and 3-aminopyridine (500 mg, 5.31 mmol) dissolved in DCM (1 mL) is added dropwise. The reaction mixture is at 0° C. for 1 hour. The solvent is removed in vacuo and the residue is dissolved in ethyl acetate. This organic portion is washed with 0.1 M HCl and then concentrated in vacuo to afford the titled compound. (MH+215)

reactant | Phenyl chloroformate | 5.84 mmol, 0.733 mL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 3-aminopyridine | 5.31 mmol, 500 mg | NC=1C=NC=CC1 | C5H6N2
solvent | pyridine DCM | 3 mL | N1=CC=CC=C1.C(Cl)Cl
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | Pyridin-3-yl-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC=1C=NC=CC1)=O | C12H10N2O2
